US07795236B2
tert-Butyl N-(2′-pentyloxybiphenyl-4-ylmethyl)carbamate
The title compound was prepared in a similar manner to that described in Reference Example 20 using tert-butyl N-(2′-hydroxybiphenyl-4-ylmethyl)carbamate instead of tert-butyl N-(3′-hydroxybiphenyl-4-ylmethyl)carbamate and 1-bromopentane instead of 1-bromopropane.

reactant | tert-butyl N-(2′-hydroxybiphenyl-4-ylmethyl)carbamate | OC1=C(C=CC=C1)C1=CC=C(C=C1)CNC(OC(C)(C)C)=O | C18H21NO3
reactant | 1-bromopentane | BrCCCCC | C5H11Br
product | tert-Butyl N-(2′-pentyloxybiphenyl-4-ylmethyl)carbamate | C(CCCC)OC1=C(C=CC=C1)C1=CC=C(C=C1)CNC(OC(C)(C)C)=O | C23H31NO3
